US06432955B1
N-(1-amino-isoquinolin-6-ylmethyl) 1-(2-((2-propyl)oxycarbonylmethylamino)-2(R)-cyclohexylmethyl-acetyl)-prolinamide
To a stirred solution of 96 mg of N-(1-amino-isoquinolin-6-ylmethyl) 1-(2-hydroxycarbonylmethylamino-2(R)-cyclohexylmethyl-acetyl)-prolinamide in 6 mL of 2-propanol was added 0.03 mL of thionyl chloride and the reaction mixture was heated at reflux temperature for two days. After this period the reaction mixture was concentrated, ethyl acetate added, washed with aqueous 5% sodium hydrogencarbonate and brine, dried over sodium sulphate and concentrated. The residue was dissolved in a t-butanol/water 1/1 (v/v) mixture lyophilisation yielded 56 mg of the title compound. MS ESI+: 524 (M+H).

reactant | N-(1-amino-isoquinolin-6-ylmethyl) 1-(2-hydroxycarbonylmethylamino-2(R)-cyclohexylmethyl-acetyl)-prolinamide | 96 mg | NC1=NC=CC2=CC(=CC=C12)CNC([C@H]1N(CCC1)C([C@@H](CC1CCCCC1)NCC(=O)O)=O)=O | C26H35N5O4
reactant | thionyl chloride | 0.03 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-propanol | 6 mL | CC(C)O | C3H8O
product | N-(1-amino-isoquinolin-6-ylmethyl) 1-(2-((2-propyl)oxycarbonylmethylamino)-2(R)-cyclohexylmethyl-acetyl)-prolinamide | 56 mg | NC1=NC=CC2=CC(=CC=C12)CNC([C@H]1N(CCC1)C([C@@H](CC1CCCCC1)NCC(=O)OC(C)C)=O)=O | C29H41N5O4
